US07956084B2
b) 1-(4-Bromobenzyl)-4-(2-methoxyethyl)piperazine
4-Bromobenzyl bromide (2.0 g) and 1-(2-methoxyethyl)piperazine (2.31 g) were stirred in dimethylformamide (30 ml) for 18 h. The mixture was partitioned between diethyl ether (30 ml) and water (30 ml). The aqueous phase was extracted further with ether (30 ml) and the combined organics were washed with water (50 ml), dried (MgSO4), concentrated in vacuo and purified by Bondelute® chromatography, eluting with 0-100% ethyl acetate/iso-hexane followed by 10-50% methanol/ethyl acetate to give the product as a yellow oil (1.61 g).

reactant | 4-Bromobenzyl bromide | 2.0 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | 1-(2-methoxyethyl)piperazine | 2.31 g | COCCN1CCNCC1 | C7H16N2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(4-Bromobenzyl)-4-(2-methoxyethyl)piperazine | 1.61 g | BrC1=CC=C(CN2CCN(CC2)CCOC)C=C1 | C14H21BrN2O
